US04515624
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-(dimethylaminosulfonyloxy)benzenesulfonamide
To a suspension of 0.46 g (0.003 mole) 2-amino-4,6-dimethoxypyrimidin in 5 ml methylene chloride was added 1.2 g (0.004 mole) 2-(dimethylaminosulfonyloxy)-benzenesulfonyl isocyanate. The reaction exothermed (18°-26° C.) and was then stirred at room temperature 3 hours. The solvent was evaporated under reduced pressure. The resultant mixture was triturated with diethyl ether and filtered to give 1.2 g of a white solid, m.p. 165°-168° C. The infrared spectrum shows absorption bands at 1710, 1380, 1170 cm-1.

reactant | 2-amino-4,6-dimethoxypyrimidin | 0.003 mole, 0.46 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | 2-(dimethylaminosulfonyloxy)-benzenesulfonyl isocyanate | 0.004 mole, 1.2 g | CN(S(=O)(=O)OC1=C(C=CC=C1)S(=O)(=O)N=C=O)C | C9H10N2O6S2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-(dimethylaminosulfonyloxy)benzenesulfonamide | 1.2 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)OS(=O)(=O)N(C)C | C15H19N5O8S2
